US08633211B2
Step 2: [4-(2,4-Dioxo-1,4-dihydro-2H-quinazolin-3-yl)-phenyl]-acetic acid ethyl ester
A mixture of [4-(2-amino-benzoylamino)-phenyl]-acetic acid ethyl ester (14.2 g, 47 mmol) and triphosgene (0.5 eq, 7.03 g, 23.5 mmol) in DCM (200 ml) is treated with DIPEA (2 eq, 16.5 ml, 94 mmol) dropwise via dropping funnel while stirring at RT. After 1 hour, the reaction mixture is diluted with DCM and washed with saturated aqueous NaHCO3. The separated organic layer is washed with distilled water (2×), dried over MgSO4, filtered and the solvent removed in vacuo. The title compound is obtained as pure white solid.

reactant | [4-(2-amino-benzoylamino)-phenyl]-acetic acid ethyl ester | 47 mmol, 14.2 g | C(C)OC(CC1=CC=C(C=C1)NC(C1=C(C=CC=C1)N)=O)=O | C17H18N2O3
reactant | triphosgene | 23.5 mmol, 7.03 g, 0.5 eq | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | DIPEA | 94 mmol, 16.5 ml, 2 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | [4-(2,4-Dioxo-1,4-dihydro-2H-quinazolin-3-yl)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)N1C(NC2=CC=CC=C2C1=O)=O)=O | C18H16N2O4
